US06573289B1
Production of 1-(5-Ethenyl-6-methoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
1-(5-Ethenyl-6-methoxynaphthalen-2-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol (230 mg) was dissolved in a mixed solution of methanol and THF (3:1, 20 ml). To the solution was added pyridine hydrochloride (0.12 g), and the mixture was stirred at 60° C. for 3 h. The reaction mixture was concentrated to dryness, and to the residue were added ethyl acetate and 1N-hydrochloric acid (10 ml). The organic layer was extracted four times with 1N-hydrochloric acid. The aqueous layer was neutralized with an aqueous solution of sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried and concentrated. The residue was purified by silica gel chromatography (eluent, dichloromethane-methanol=10:1) to give the titled compound (91 mg).

reactant | 1-(5-Ethenyl-6-methoxynaphthalen-2-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 230 mg | C(=C)C1=C2C=CC(=CC2=CC=C1OC)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H36N2O2
reactant | pyridine hydrochloride | 0.12 g | Cl.N1=CC=CC=C1
solvent | methanol | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(5-Ethenyl-6-methoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 91 mg | C(=C)C1=C2C=CC(=CC2=CC=C1OC)C(C(C)C)(O)C=1N=CNC1 | C20H22N2O2
